US08383644B2
(S)-3-(4-Bromo-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester and 4-carbamoylphenyl boronic acid (2 eq.) were coupled in 7:2 toluene-H2O with Na2CO3 (3 eq.) and Pd(PPh3)4 (0.1 eq.). After heating for 4 hours at 80° C., the reaction mixture was purified by flash chromatography to provide (S)-2-tert-butoxycarbonylamino-3-(4′-carbamoyl-biphenyl-4-yl)-propionic acid methyl ester. The product was deprotected according to General Procedure C to provide an amine-HCl salt, which was coupled with (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester according to General Procedure L. The product was deprotected according to General Procedure C to provide an amine-HCl salt, which was treated with excess NEt3 in DCM to produce a free amine. The free amine was coupled with 2,5-dimethyloxazole-4-carboxylic acid (2 eq.) in dry DCM with HBTU (2.2 eq.) and NEt3 (3 eq.). After reacting for 2 hours at room temperature, the reaction mixture was purified by flash chromatography to provide the product, which was hydrolyzed according to general procedure B to give the title compound (11 mg). LCMS (m/z) 876.

reactant | (S)-3-(4-Bromo-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)Br)NC(=O)OC(C)(C)C)=O | C15H20BrNO4
reactant | 4-carbamoylphenyl boronic acid | 2 eq. | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | Na2CO3 | 3 eq. | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene H2O | C1(=CC=CC=C1)C.O
product | (S)-2-tert-butoxycarbonylamino-3-(4′-carbamoyl-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C(N)=O)NC(=O)OC(C)(C)C)=O | C22H26N2O5
